### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Adjoint): `U ∈ invtSubmodule T.adjoint ↔ Uᗮ ∈ invtSubmodule T`

### PR DESCRIPTION
**Pull request by themathqueen**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 1]
```diff
@@ -451,6 +451,16 @@ alias ⟨_, IsStarProjection.ext⟩ := IsStarProjection.ext_iff
...
 
+open Module End Submodule in
+theorem mem_invtSubmodule_adjoint_iff {T : E →L[𝕜] E} {U : Submodule 𝕜 E}
+    [U.HasOrthogonalProjection] :
+    U ∈ invtSubmodule T.adjoint.toLinearMap ↔ Uᗮ ∈ invtSubmodule T.toLinearMap := by
+  simp only [mem_invtSubmodule_iff_forall_mem_of_mem, coe_coe, mem_orthogonal]
+  refine ⟨fun h x H u hu ↦ T.adjoint_inner_left _ _ |>.symm ▸ H _ (h _ hu), fun h x hx ↦ ?_⟩
+  rw [← U.orthogonal_orthogonal]
+  simp only [mem_orthogonal, T.adjoint_inner_right, inner_eq_zero_symm (x := T _)]
+  grind
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: One direction of this is true without the `HasOrthogonalProjection` assumption.
```suggestion
open Module End Submodule in
theorem orthogonal_mem_invtSubmodule {T : E →L[𝕜] E} {U : Submodule 𝕜 E}
    (h : U ∈ invtSubmodule T.adjoint.toLinearMap) :
    Uᗮ ∈ invtSubmodule T.toLinearMap := by
  simp only [mem_invtSubmodule_iff_forall_mem_of_mem, coe_coe, mem_orthogonal] at h ⊢
  grind [T.adjoint_inner_left]
 
open Module End in
theorem mem_invtSubmodule_adjoint_iff {T : E →L[𝕜] E} {U : Submodule 𝕜 E}
    [U.HasOrthogonalProjection] :
    U ∈ invtSubmodule T.adjoint.toLinearMap ↔ Uᗮ ∈ invtSubmodule T.toLinearMap where
  mp := orthogonal_mem_invtSubmodule
  mpr := by simpa using orthogonal_mem_invtSubmodule (T := T.adjoint) (U := Uᗮ)
```
